US04315014
A suspension of 1.15 g (5 mmol) of 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 200 ml of water, and 0.42 g (5 mmol) of sodium bicarbonate is stirred at 0°-5° and a solution of 3.6 ml (30 mmol) of methanesulfonyl chloride and 30 ml of acetonitrile is added over a 2 hr. period. During the addition, the pH of the reaction is maintained at 6.9-7.3 with 1 N sodium hydroxide. After the addition, the reaction is stirred at 0°-5° for 2 hrs. The precipitated solid is filtered and dried to give 0.45 g of 6-[3-(methylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid.

reactant | 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 5 mmol, 1.15 g | NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | sodium bicarbonate | 5 mmol, 0.42 g | C([O-])(O)=O.[Na+]
reactant | methanesulfonyl chloride | 30 mmol, 3.6 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
product | 6-[3-(methylsulfonylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 0.45 g | CS(=O)(=O)NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C13H12N2O5S
